
*****************************************************************************
* The following parameters are modeled: 
* Input Offset Voltage, Input Bias Current, VIH/VIL, DC CMRR,
* small signal freq response, Input Referred Voltage Noise, 
* Input Referred Current Noise, Slew Rate,
* Short Circuit Output Current, VOH/VOL, VOH/VOL vs. Output Current
* Iq_on, Iq_off, PSRR
*****************************************************************************

.subckt OPA858 INP INN VCC VEE OUT
XI0 VEE VCC INN INP OUT PD VFA_HT5
RPD PD 0 1G 
.ends

.subckt ESDDIODES VCC VEE VIN VOUT PARAMS: VESDL=-700e-3 VESDH=-700e-3
XIDVIH NET12 NET16 DiodeIdeal
XIDVIL NET16 NET20 DiodeIdeal
R0 VIN NET16  1e-3
V0 NET16 VOUT 0
VESDL NET20 VEE {VESDL} 
VESDH VCC NET12 {VESDH} 
.ends ESDDIODES


.subckt VINRANGE3 SIGNAL1 SIGNAL2 VCC VEE VINM VINP PARAMS: SignalGain=1 VIL=100e-3 VIH=100e-3
XIDVIL NET13 NET074 DiodeIdeal
XIDVIH NET076 NET13 DiodeIdeal
FVIL2 SIGNAL2 VEE VIL   {SignalGain} 
FVIL1 SIGNAL1 VEE VIL   {SignalGain} 
FVIH1 VCC SIGNAL1 VIH   {SignalGain} 
FVIH2 VCC SIGNAL2 VIH   {SignalGain} 
E1 NET8 0 VINM 0 1
E0 NET6 0 VINP 0 1
VIL NET074 VEE {VIL} 
VIH VCC NET076 {VIH} 
R7 NET8 NET13  1
R6 NET6 NET13  1
.ends VINRANGE3


.subckt ZIN IN1 IN2 OUT1 OUT2 PARAMS: R5=100e-3 R4=100e-3 C3=50e-15 C2=50e-15
+ C1=50e-15 R2=10e9 R1=10e9 R3=1e9

R5 IN2 OUT2   {R5} 
R4 IN1 OUT1   {R4} 
C3 OUT1 OUT2   {C3} 
C2 OUT2 0   {C2} 
C1 OUT1 0   {C1} 
GR2 OUT2 0 OUT2 0  {1/R2} 
GR1 0 OUT1 0 OUT1  {1/R1} 
GR3 OUT1 OUT2 OUT1 OUT2  {1/R3} 
.ends ZIN


.subckt DOMPOLE A B C PARAMS: R2=1e-3 R1=2.653e6 C2=1e-15 C1=10e-12
R2 NET7 A   {R2} 
R1 B A   {R1} 
C2 NET7 C   {C2} 
C1 A B   {C1} 
.ends DOMPOLE


.subckt PHASEDELAY A B VIN VOUT PARAMS: R1=1 R2=1e9 C1=1e-15 C2=1e-15 Gain=1 L=1e-12
R5 VOUT NET026  1e-3
R3 NET15 NET024  1e-3
R1 NET27 NET15   {R1} 
R4 NET15 A  1e9
R2 VOUT B   {R2} 
C1 NET024 A   {C1} 
C2 NET026 B   {C2} 
E0 NET27 0 VIN 0  {Gain} 
L0 NET15 VOUT  {L} 
.ends PHASEDELAY


.subckt NONDOMPOLE C VIN VOUT PARAMS: L=1e-12 Gain=1 C=226.7e-12 Rp=1e9 Rs=1
L0 NET020 VOUT  {L} 
E0 NET4 0 VIN 0  {Gain} 
C1 NET019 C   {C} 
R3 VOUT C   {Rp} 
R2 VOUT NET019  1e-3
R1 NET020 NET4   {Rs} 
.ends NONDOMPOLE


.subckt ANALOG_BUFFER VOUT VIN
R0 VIN 0  1e9
R1 VOUT 0  1e9
E0 VOUT 0 VIN 0 1
.ends ANALOG_BUFFER

.subckt OUTPUTCIR PD VCC VCCMAIN VEE VEEMAIN VIN VOUT

EVOH VCC VOH TABLE { V(VIMON) } =  
+ (0,0.9)
+ (60m,1.3)
+ (80m,1.45)
+ (100m,1.7414)
+ (105m,1.9778)
+ (106m,5)


EVOL VOL VEE TABLE { V(VIMONINV) } =  
+ (0,1.05)
+ (100m,1.68)
+ (105m,1.72)
+ (106m,5)
 
XI14 NET070 NET15 DiodeIdeal
XI15 NET068 VOL DiodeIdeal
XI0 VCCMAIN VEEMAIN VIMON PD OutputCir_ILOAD

ROUT NET53 NET22 10.76

HVIMONINV VIMONINV 0 VCURSINKDETECT  1
HVIMON VIMON 0 VCURSOURCEDETECT  1

RVIMONINV VIMONINV 0  1e9
RVIMON VIMON 0  1e9
RISC NET092 NET15  1

ROUTMINOR NET0100 NET17  14

XI2 NET22 VIN ANALOG_BUFFER
VPROBE3 NET070 VOH 0

VPROBE4 NET068 NET15 0
VCURSOURCEDETECT NET15 NET34 0
VCURSINKDETECT VOUT NET34 0
VPROBE1 NET53 NET17 0

LOUT NET17 NET092 3.5e-10 Rser=0 Rpar=100

CBYP NET17 NET0017 6e-12

RBYP NET0017 NET092 12

CP NET0146 0  5e-13
RP NET092 NET0146  28

COUT NET22 NET0100  1e-8
.ends OUTPUTCIR


.subckt RECOVERYCIRCUIT A B VCC VEE PARAMS: VRecL=-10e-3 VRecH=-10e-3
XI2 NET8 NET014 DiodeIdeal
XI3 NET014 NET9 DiodeIdeal
VBRIDGE NET014 A 0
VPROBE A B 0
VRECL NET9 VEE {VRecL} 
VRECH VCC NET8 {VRecH} 
.ends RECOVERYCIRCUIT


.subckt VFA_HT5 VEE VCC VINM VINP VOUT PD
XI67 VCC_INT VEE_INT NET21 VINP_INT ESDDIODES PARAMS: VESDL=-250e-3 VESDH=1.25
XI68 VCC_INT VEE_INT NET22 VINM_INT ESDDIODES PARAMS: VESDL=-250e-3 VESDH=1.25





XI60 VINP_INT VINM_INT Ibias PARAMS: Choice=1 Ibias=-570.3222e-15 Ioffset=1.582118e-15 TA=25
+ IbiasDrift=299.258e-15 IoffsetDrift=0.540206e-15 Ibiasp=29.3044295e-15 Ibiasm=28.5783705e-15


XI21 NET12 NET22 NET12 CMRR PARAMS: CMRR_DC=-140.076 CMRR_f3dB=1.238346e6 CMRR_f3dB_FudgeFactor=4

XI19 VCC_INT VEE_INT NET2 NET12 PSRR PARAMS: PSRRP_DC=-96.9149 PSRRP_f3dB=100e3
+ PSRRN_DC=-79.5666 PSRRN_f3dB=90e3

XI53 VINP VINM NET1 NET2 ZIN PARAMS: R5=100e-3 R4=100e-3 C3=200e-15 C2=620.054e-15
+ C1=620.054e-15 R2=124.81e9 R1=124.81e9 R3=123.686e9

XI58 HIGHZ NET32 0 DOMPOLE PARAMS: R2=1e-3 R1=3.995E+05 C2=1e-15 C1=5.88e-13

XI18 NET11 0 Inoise PARAMS: X=0.1e-3 Y=432e-15 Z=4.32e-15
XI63 NET2 0 Inoise PARAMS: X=0.1e-3 Y=432e-15 Z=4.32e-15

XI52 VINP_INT VINM_INT NET32 NET31 VEE_INT VCC_INT POWER GmItail PARAMS: Choice=1
+ Gm=2.058E-02 SBF=1 ITAILMAX_X1=3 ITAILMAX_Y1=1m ITAILMAX_X2=5 ITAILMAX_Y2=1m
+ ITAILMIN_X1=3 ITAILMIN_Y1=1m ITAILMIN_X2=5 ITAILMIN_Y2=1m

XI85 0 0 NET61 NET71 PHASEDELAY PARAMS: R1=1 R2=1e9 C1=1e-15 C2=1e-15 Gain=1 L=1e-12

XI26 0 NET51 NET61 NONDOMPOLE PARAMS: L=1e-12 Gain=1 C=7.100E-11 Rp=1e9 Rs=1

XI17 NET1 NET11 Vnoise PARAMS: X=0.1e-3 Y=246e-9 Z=2.46e-9

XI59 NET21 NET11 Vinoffset PARAMS: TA=25 VOS=76.3758e-6 DRIFT=1.25929e-6

XI30 POWER VCC_INT VCC VEE_INT VEE NET71 VOUT OUTPUTCIR

XI28 NET41 NET51 VCC_INT VEE_INT RECOVERYCIRCUIT PARAMS: VRecL=-10m VRecH=-10m


XI40 VCC VEE POWER VEE_INT VCC_INT Iq PARAMS: IOFF=66.5902e-6 ION_X1=0 ION_Y1=20.2177e-3
+ ION_X2=1.6 ION_Y2=20.2177e-3 ION_X3=1.9 ION_Y3=20.2177e-3 ION_X4=12 ION_Y4=20.2177e-3

VPROBE2 HIGHZ NET41
VDOMPOLEBIAS NET32 0 0
VPROBE1 NET31 HIGHZ
R14 VCC_INT PD  10e6
XAHDLINV3 PD PDINV VCC_INT VEE_INT HPA_INV_IDEAL
XAHDLINV1 PDINV POWER VCC_INT VEE_INT HPA_INV_IDEAL
XI13 VEE_INT VEE ANALOG_BUFFER
XI12 VCC_INT VCC ANALOG_BUFFER
.ends VFA_HT5

.SUBCKT HPA_OR2 1 2 3 VDD VSS
E1 4 0 VALUE = { IF( ((V(1)< (V(VDD)+V(VSS))/2 ) & (V(2)< (V(VDD)+V(VSS))/2 )), V(VSS), V(VDD) ) }
R1 4 3 1
C1 3 0 1e-12
.ENDS

.SUBCKT HPA_INV_IDEAL 1 2 VDD VSS
E1 2 0 VALUE = { IF( V(1)> (V(VDD)+V(VSS))/2, V(VSS), V(VDD) ) }
.ENDS

.SUBCKT HPA_COMP_IDEAL INP INN OUT VDD VSS
E1 OUT 0 VALUE = { IF( (V(INP) > V(INN)), V(VDD), V(VSS) ) }
.ENDS

.SUBCKT AVG VIN1 VIN2 VOUT
E1 VOUT 0 VALUE = { ( V(VIN1) + V(VIN2) ) / 2 }
.ENDS

.SUBCKT CMRR A B C PARAMS:

+ CMRR_DC 	        = -100
+ CMRR_f3dB             = 50e3
+ CMRR_f3dB_FudgeFactor = 3.4

.PARAM CMRR       = {0-CMRR_DC}
.PARAM FCMRR	  = {CMRR_f3dB * CMRR_f3dB_FudgeFactor}

X1 A B C 0 CMRR_NEW PARAMS: CMRR = {CMRR} FCMRR = {FCMRR}
.ENDS

.SUBCKT DiodeIdeal NEG POS
B1 POS NEG i=IF ( V(POS,NEG) <= 0 , 0, V(POS,NEG)*0.01G ) Rpar=1T Cpar=0.001F
.ENDS


.SUBCKT DomPoleBias VIN1 VIN2 VOUT
B1 VOUT 0 V= (V(VIN1) + V(VIN2) 
R1 VOUT 0 1G
.ENDS


.SUBCKT GmItail  Vinp Vinm Ioutp Ioutm VEE VCC PD PARAMS:
+ Choice 	= 2

+ Gm 	        = 3.77e-2
+ SBF		= 1 

+ ITAILMAX_X1 	= { 3.0 }
+ ITAILMAX_Y1 	= { 10m }

+ ITAILMAX_X2 	= { 5.0 }
+ ITAILMAX_Y2 	= { 10m }

+ ITAILMIN_X1 	= { 3.0 }
+ ITAILMIN_Y1 	= { 10m }

+ ITAILMIN_X2 	= { 5.0 }
+ ITAILMIN_Y2 	= { 10m }

.PARAM Choice1 		= { IF ( Choice == 1,  1, 0 ) }
.PARAM Choice2 		= { IF ( Choice == 2,  1, 0 ) }
.PARAM Choice3		= { IF ( Choice == 3,  1, 0 ) }
.PARAM Choice11 	= { IF ( Choice == 11, 1, 0 ) }

X1 PD PDINV VCC VEE LOGIC1 0 DLSINV
VLOGIC1 LOGIC1 0 1

.PARAM ITAILMAX_SLOPE = 
+ { ( ITAILMAX_Y2 - ITAILMAX_Y1 ) / ( ITAILMAX_X2 - ITAILMAX_X1 ) }
.PARAM ITAILMAX_INTCP = 
+ { ITAILMAX_Y1 - ITAILMAX_SLOPE * ITAILMAX_X1 }

EITAILMAX ITAILMAX 0 VALUE = 
+ { ITAILMAX_SLOPE * V(VCC,VEE) + ITAILMAX_INTCP  }

.PARAM ITAILMIN_SLOPE = 
+ { ( ITAILMIN_Y2 - ITAILMIN_Y1 ) / ( ITAILMIN_X2 - ITAILMIN_X1 ) }
.PARAM ITAILMIN_INTCP = 
+ { ITAILMIN_Y1 - ITAILMIN_SLOPE * ITAILMIN_X1 }

EITAILMIN ITAILMIN 0 VALUE = 
+ { ITAILMIN_SLOPE * V(VCC,VEE) + ITAILMIN_INTCP  }

G1 IOUTP IOUTM VALUE = { ( 1-V(PDINV) ) * (
+ Choice1  * ( LIMIT ( Gm * V(VINP,VINM) , -V(ITAILMIN), V(ITAILMAX) ) ) +
+ Choice2  * ( Gm * (V(ITAILMAX)/Gm) * TANH( V(VINP,VINM) / (V(ITAILMAX)/Gm) )   ) +	
+ Choice3  * ( Gm * V(VINP,VINM) / ( 1 + Gm/V(ITAILMAX) * ABS( V(VINP,VINM) ) ) ) +              		
+ Choice11 * ( LIMIT ( ( Gm * EXP ( LIMIT ( SBF * ABS(V(VINP,VINM)) , -LOG(1E100), LOG(1E100) ) ) ) 
+                     * V(VINP,VINM) , -V(ITAILMIN), V(ITAILMAX) ) ) 				   )	}

.ENDS

.SUBCKT Ibias VINP VINM PARAMS:
+ Choice       = 1

+ Ibias        = -10u
+ Ioffset      = 150n

+ TA           = 25
+ IbiasDrift   = 0
+ IoffsetDrift = 0

+ Ibiasp       =  -9.925u
+ Ibiasm       = -10.075u

.PARAM Choice1 = { IF ( Choice == 1, 1, 0 ) }
.PARAM Choice2 = { IF ( Choice == 2, 1, 0 ) }

.PARAM Ib = { Choice1 * Ibias   + Choice2 * (Ibiasp + Ibiasm)/2  }
.PARAM Io = { Choice1 * Ioffset + Choice2 * ABS(Ibiasp - Ibiasm) } 

EIb Ib 0 VALUE = { IbiasDrift   * TEMP + ( Ib - IbiasDrift   * TA ) }
EIo Io 0 VALUE = { IoffsetDrift * TEMP + ( Io - IoffsetDrift * TA ) }

GIbp VINP 0 VALUE = { V(Ib) + V(Io)/2 }
GIbm VINM 0 VALUE = { V(Ib) - V(Io)/2 }

.ENDS


.SUBCKT Inoise A B PARAMS:
+ X = 1m  
+ Y = 100f 
+ Z = 1f 
X1 A B FEMT PARAMS: NLFF = { Y/1f }  FLWF = { X } NVRF = { Z/1f }
.ENDS


.subckt Iq VCCmain VEEmain PD VEE VCC PARAMS:
+ IOFF = { 1n }

+ ION_X1 = 0.0 
+ ION_Y1 =  1m

+ ION_X2 =  1.6 
+ ION_Y2 = 1m 

+ ION_X3 =  1.9 
+ ION_Y3 = 1m 

+ ION_X4 =  12.0 
+ ION_Y4 =  1m 

EION_SEG1 ION_SEG1 0 VALUE = { IF ( 		          V(VCC,VEE) <= ION_X2, 1, 0 ) }
EION_SEG2 ION_SEG2 0 VALUE = { IF ( V(VCC,VEE) > ION_X2 & V(VCC,VEE) <= ION_X3, 1, 0 ) }
EION_SEG3 ION_SEG3 0 VALUE = { IF ( V(VCC,VEE) > ION_X3		              , 1, 0 ) }


.PARAM ION_SEG1_SLOPE =  ( ION_Y2 - ION_Y1 ) / ( ION_X2 - ION_X1 ) 
.PARAM ION_SEG1_INTCP =  ION_Y1 - ION_SEG1_SLOPE * ION_X1 

.PARAM ION_SEG2_SLOPE = ( ION_Y3 - ION_Y2 ) / ( ION_X3 - ION_X2 ) 
.PARAM ION_SEG2_INTCP =  ION_Y2 - ION_SEG2_SLOPE * ION_X2 

.PARAM ION_SEG3_SLOPE =  ( ION_Y4 - ION_Y3 ) / ( ION_X4 - ION_X3 ) 
.PARAM ION_SEG3_INTCP =  ION_Y3 - ION_SEG3_SLOPE * ION_X3 

EION ION 0 VALUE = { 	V(ION_SEG1) * ( ION_SEG1_SLOPE * V(VCC,VEE) + ION_SEG1_INTCP ) +
+			V(ION_SEG2) * ( ION_SEG2_SLOPE * V(VCC,VEE) + ION_SEG2_INTCP ) +
+ 			V(ION_SEG3) * ( ION_SEG3_SLOPE * V(VCC,VEE) + ION_SEG3_INTCP ) 	}

X1 PD PDINV VCC VEE LOGIC1 0 DLSINV
VLOGIC1 LOGIC1 0 1

G1 VCCMAIN VEEMAIN VALUE = { V(ION) * ( 1-V(PDINV) ) + IOFF * V(PDINV) }  

.ends


.SUBCKT OutputCir_ILOAD  VDD VSS VIMON PD
X1 PD PDINV VDD VSS LOGIC1 0 DLSINV
VLOGIC1 LOGIC1 0 1

G1 VDD 0 VALUE = {IF(V(VIMON) >= 0, V(VIMON)*( 1-V(PDINV) ), 0)}
G2 VSS 0 VALUE = {IF(V(VIMON)  < 0, V(VIMON)*( 1-V(PDINV) ), 0)}

.ENDS


.SUBCKT OutputCir_IscDiodeIdeal NEG POS PARAMS: 
+ IS = 1E-14
+ N  = 50m



G1 POS NEG_INT VALUE = { IF ( V(POS,NEG_INT) <= 0 , IS,  
+                             IS * ( EXP ( V(POS,NEG_INT)/25m * 1/N ) - 0 )  ) }  


V1 NEG_INT NEG {-N*0.8}

.ENDS


.SUBCKT OutputCir_IscVlimit A B VCC VEE PARAMS:
+RIsc 		 = { 1 }

+IscVsVsupply_X1 = { 3.0 }
+IscVsVsupply_Y1 = { 75m }

+IscVsVsupply_X2 = { 5.0 }
+IscVsVsupply_Y2 = { 100m }

.PARAM IscVsVsupply_SLOPE = 
+ { ( IscVsVsupply_Y2 - IscVsVsupply_Y1 ) / ( IscVsVsupply_X2 - IscVsVsupply_X1 ) }
.PARAM IscVsVsupply_INTCP = 
+ { IscVsVsupply_Y1 - IscVsVsupply_SLOPE * IscVsVsupply_X1 }

EIscVsVsupply IscVsVsupply 0 VALUE = 
+ { IscVsVsupply_SLOPE * V(VCC,VEE) + IscVsVsupply_INTCP  }

E1 A B VALUE = { V(IscVsVsupply) * RIsc }

.ENDS


.SUBCKT OutputCir_RecoveryAssist  VINP VINM IOUTP IOUTM VCC VEE RecoverySignal

X1 RecoverySignal RS VCC VEE LOGIC1 0 DLS
VLOGIC1 LOGIC1 0 1

G1 IOUTP IOUTM VALUE = { LIMIT ( 1m * V(VINP,VINM) *  V(RS) , -100m, 100m ) }

.ENDS


.SUBCKT OutputCir_Rout B A VIMON PARAMS:
+ Ro_Iout_0A = 100
+ RIsc = 1
+ Isc = 100m
+ Islope_const = 1/100

.PARAM Islope = { Islope_const * Isc }

G1 A B VALUE = { V(A,B) * 1 / ( (Ro_Iout_0A - RIsc) * Islope / ( Islope + ABS(V(VIMON)) ) )   }

.ENDS


.SUBCKT OutputCir_VOHVOLDiodeIdeal NEG POS

G1 POS NEG VALUE = { IF ( V(POS,NEG) <= 0 , 0, V(POS,NEG)*0.01G ) }
R0 POS NEG 1000G

.ENDS


.SUBCKT OutputCir_VOHVOL A B C  PARAMS:
+ VSUPPLYREF    = {2.5} 

+ VOUTvsIOUT_X1 = { ABS(0) }
+ VOUTvsIOUT_Y1 = { 2.4 }

+ VOUTvsIOUT_X2 = { ABS(100m) }
+ VOUTvsIOUT_Y2 = { 2.1 }


.PARAM VDROPvsIOUT_X1 = { VOUTvsIOUT_X1 }
.PARAM VDROPvsIOUT_Y1 = { ABS(VSUPPLYREF-VOUTvsIOUT_Y1) }

.PARAM VDROPvsIOUT_X2 = { VOUTvsIOUT_X2 }
.PARAM VDROPvsIOUT_Y2 = { ABS(VSUPPLYREF-VOUTvsIOUT_Y2) }


.PARAM VDROPvsIOUT_SLOPE = 
+ { ( VDROPvsIOUT_Y2 - VDROPvsIOUT_Y1 ) / ( VDROPvsIOUT_X2 - VDROPvsIOUT_X1 ) }
.PARAM VDROPvsIOUT_INTCP = 
+ { VDROPvsIOUT_Y1 - VDROPvsIOUT_SLOPE * VDROPvsIOUT_X1 }


EVDROPvsIOUT VDROPvsIOUT 0 VALUE = 
+ { VDROPvsIOUT_SLOPE * V(C) + VDROPvsIOUT_INTCP  }

E1 A B VALUE = { V(VDROPvsIOUT) }

.ENDS

.SUBCKT PSRR VDD VSS A B PARAMS:

+ PSRRP_DC    = -100
+ PSRRP_f3dB  = 100k

+ PSRRN_DC    = -90
+ PSRRN_f3dB  = 90k

.PARAM PSRRP       = {0-PSRRP_DC}
.PARAM PSRRN       = {0-PSRRN_DC}
.PARAM FPSRRP      = {PSRRP_f3dB}
.PARAM FPSRRN      = {PSRRN_f3dB}

X1 VDD VSS A B 0 PSRR_DUAL_NEW PARAMS:
+ PSRRP = {PSRRP} FPSRRP = {FPSRRP}
+ PSRRN = {PSRRN} FPSRRN = {FPSRRN}
.ENDS

.SUBCKT RecoveryCircuit_DiodeIdeal NEG POS

G1 POS NEG VALUE = { IF ( V(POS,NEG) <= 0 , 0, V(POS,NEG)*0.01G ) }
R0 POS NEG 1000G

.ENDS


.SUBCKT Vinoffset POS NEG PARAMS: 
+ TA     = 25
+ VOS    = 500u
+ DRIFT  = 10u 

E1 POS NEG VALUE = { DRIFT * TEMP + ( VOS - DRIFT * TA     ) }

.ENDS


.SUBCKT Vinrange_DiodeIdeal NEG POS

G1 POS NEG VALUE = { IF ( V(POS,NEG) <= 0 , 0, V(POS,NEG)*100k ) }
R0 POS NEG 1000G

.ENDS


.SUBCKT Vnoise A B PARAMS:
+ X = { 1m  }
+ Y = { 100n }
+ Z = { 5n  }
X1 A B VNSE PARAMS: NLF = { Y/1n } FLW = { X }  NVR = { Z/1n }
.ENDS

.SUBCKT VNSE  1 2 PARAMS: NLF = 10 FLW = 4  NVR = 4.6
.PARAM GLF={PWR(FLW,0.25)*NLF/1164}
.PARAM RNV={1.184*PWR(NVR,2)}
.MODEL DVN D KF={PWR(FLW,0.5)/1E11} IS=1.0E-16
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVN
D2 8 0 DVN
E1 3 6 7 8 {GLF}
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 {RNV}
R5 5 0 {RNV}
R6 3 4 1E9
R7 4 0 1E9
E3 1 2 3 4 1
C1 1 0 1E-15
C2 2 0 1E-15
C3 1 2 1E-15
.ENDS

.SUBCKT FEMT  1 2 PARAMS: NLFF = 0.1 FLWF = 0.001 NVRF = 0.1
.PARAM GLFF={PWR(FLWF,0.25)*NLFF/1164}
.PARAM RNVF={1.184*PWR(NVRF,2)}
.MODEL DVNF D KF={PWR(FLWF,0.5)/1E11} IS=1.0E-16
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVNF
D2 8 0 DVNF
E1 3 6 7 8 {GLFF}
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 {RNVF}
R5 5 0 {RNVF}
R6 3 4 1E9
R7 4 0 1E9
G1 1 2 3 4 1E-6
C1 1 0 1E-15
C2 2 0 1E-15
C3 1 2 1E-15
.ENDS

.SUBCKT PSRR_SINGLE   VDD  VSS  VI  VO  GNDF PARAMS: PSRR = 130 FPSRR = 1.6
.PARAM PI = 3.141592
.PARAM RPSRR = 1
.PARAM GPSRR = {PWR(10,-PSRR/20)/RPSRR}
.PARAM LPSRR = {RPSRR/(2*PI*FPSRR)}
G1  GNDF 1 VDD VSS {GPSRR}
R1  1 2 {RPSRR}
L1  2 GNDF {LPSRR}
E1  VO VI 1 GNDF 1
C2  VDD VSS 10P
.ENDS

.SUBCKT PSRR_SINGLE_NEW   VDD  VSS  VI  VO  GNDF PARAMS: PSRR = 130 FPSRR = 1.6
.PARAM PI = 3.141592
.PARAM RPSRR = 1
.PARAM GPSRR = {PWR(10,-PSRR/20)/RPSRR}
.PARAM LPSRR = {RPSRR/(2*PI*FPSRR)}
G1  GNDF 1 VDD VSS {GPSRR}
R1  1 2 {RPSRR}
L1  2 GNDF {LPSRR}

EA  101 GNDF 1 GNDF 1
GRA  101 102 VALUE = { V(101,102)/1e6 }
CA  102 GNDF 1e3
EB  1 1a VALUE = {V(102,GNDF)}

E1  VO VI 1a GNDF 1
C2  VDD VSS 10P
.ENDS

.SUBCKT PSRR_DUAL   VDD  VSS  VI  VO  GNDF 
+ PARAMS: PSRRP = 130 FPSRRP = 1.6
+ PSRRN = 130 FPSRRN = 1.6
.PARAM PI = 3.141592
.PARAM RPSRRP = 1
.PARAM GPSRRP = {PWR(10,-PSRRP/20)/RPSRRP}
.PARAM LPSRRP = {RPSRRP/(2*PI*FPSRRP)}
.PARAM RPSRRN = 1
.PARAM GPSRRN = {PWR(10,-PSRRN/20)/RPSRRN}
.PARAM LPSRRN = {RPSRRN/(2*PI*FPSRRN)}
G1  GNDF 1 VDD GNDF {GPSRRP}
R1  1 2 {RPSRRP}
L1  2 GNDF {LPSRRP}

G2  GNDF 3 VSS GNDF {GPSRRN}
R2  3 4 {RPSRRN}
L2  4 GNDF {LPSRRN}

E1  VO VI VALUE = {V(1,GNDF) + V(3,GNDF)}
C3  VDD VSS 10P
.ENDS

.SUBCKT PSRR_DUAL_NEW   VDD  VSS  VI  VO  GNDF 
+ PARAMS: PSRRP = 130 FPSRRP = 1.6
+ PSRRN = 130 FPSRRN = 1.6
.PARAM PI = 3.141592
.PARAM RPSRRP = 1
.PARAM GPSRRP = {PWR(10,-PSRRP/20)/RPSRRP}
.PARAM LPSRRP = {RPSRRP/(2*PI*FPSRRP)}
.PARAM RPSRRN = 1
.PARAM GPSRRN = {PWR(10,-PSRRN/20)/RPSRRN}
.PARAM LPSRRN = {RPSRRN/(2*PI*FPSRRN)}

G1  GNDF 1 VDD GNDF {GPSRRP}
R1  1 2 {RPSRRP}
L1  2 GNDF {LPSRRP}

EA  101 GNDF 1 GNDF 1
GRA  101 102 VALUE = { V(101,102)/1e6 }
CA  102 GNDF 1e3
EB  1 1a VALUE = {V(102,GNDF)}

G2  GNDF 3 VSS GNDF {GPSRRN}
R2  3 4 {RPSRRN}
L2  4 GNDF {LPSRRN}

EC  301 GNDF 3 GNDF 1
GRC  301 302 VALUE = { V(301,302)/1e6 }
CC  302 GNDF 1e3
ED  3 3a VALUE = {V(302,GNDF)}

E1  VO VI VALUE = {V(1a,GNDF) + V(3a,GNDF)}
C3  VDD VSS 10P
.ENDS

.SUBCKT CMRR_OLD   VI  VO  VX GNDF PARAMS: CMRR = 130 FCMRR = 1.6K
.PARAM PI = 3.141592
.PARAM RCMRR = 1
.PARAM GCMRR = {PWR(10,-CMRR/20)/RCMRR}
.PARAM LCMRR = {RCMRR/(2*PI*FCMRR)}
G1  GNDF 1 VX GNDF {GCMRR}
R1  1 2 {RCMRR}
L1  2 GNDF {LCMRR}
E1  VI VO 1 GNDF 1
.ENDS

.SUBCKT CMRR_NEW   VI  VO VX GNDF PARAMS: CMRR = 130 FCMRR = 1.6K
.PARAM PI = 3.141592
.PARAM RCMRR = 1
.PARAM GCMRR = {PWR(10,-CMRR/20)/RCMRR}
.PARAM LCMRR = {RCMRR/(2*PI*FCMRR)}
G1  GNDF 1 VX GNDF {GCMRR}
R1  1 2 {RCMRR}
L1  2 GNDF {LCMRR}

EA  101 GNDF 1 GNDF 1
GRA  101 102 VALUE = {V(101,102)/1e6}
CA  102 GNDF 1e3
EB  1 1a VALUE = {V(102,GNDF)}

E1  VI VO 1a GNDF 1
.ENDS

.SUBCKT DLS 1 2 VDD_OLD VSS_OLD VDD_NEW VSS_NEW
E1 3 0 VALUE = { IF( V(1) < (V(VDD_OLD)+V(VSS_OLD))/2, V(VSS_NEW), V(VDD_NEW) ) }
R1 3 2 1
C1 2 0 1p
.ENDS

.SUBCKT DLSINV 1 2 VDD_OLD VSS_OLD VDD_NEW VSS_NEW
E1 3 0 VALUE = { IF( V(1) > (V(VDD_OLD)+V(VSS_OLD))/2, V(VSS_NEW), V(VDD_NEW) ) }
R1 3 2 1
C1 2 0 1p
.ENDS

.SUBCKT SWITCH_IDEAL A B C PARAMS:
+ Ron  = 100m
+ Roff = 0.1G

G1 A B VALUE = { V(A,B) * 1 / ( Roff/2 * TANH( 0 - ( 20*V(C) - 5 ) ) + Roff/2 + Ron )  }

R1 A 0 1000G
R2 B 0 1000G

.ENDS

.MODEL VINRANGE_DIDEAL         D N=1m
.MODEL RECOVERYCIRCUIT_DIDEAL  D N=1m 

.MODEL OUTPUTCIR_ISC_DIDEAL    D N=0.1m
.MODEL OUTPUTCIR_VOHVOL_DIDEAL D N=1m 
.MODEL DBASIC D